US06696437B1
2-Isoxazol-5-ylbenzimidazole-4-carboxamide
A solution of 0.81 g (7.5 mmol) of ethyl chloroformate in 5 ml of tetrahydrofuran was added dropwise to a solution of 0.85 g (7.5 mmol) of isoxazole-5-carboxylic acid and 3.79 g (37.5 mmol) of triethylamine in 50 ml of tetrahydrofuran at −10° C. After stirring at −10° C. for 1 hour, 1.68 g (7.5 mmol) of 2,3-diaminobenzamide were added. The reaction mixture was stirred at room temp. for 16 hours. The reaction mixture was then concentrated in vacuo. The residue was partitioned between methylene chloride and saturated sodium bicarbonate solution. The aqueous phase was extracted with methylene chloride. The combined organic phases were dried over magnesium sulfate. The residue obtained after concentration in vacuo was taken up in 10 ml of glacial acetic acid and stirred at 100° C. for 60 minutes. The reaction mixture was concentrated in vacuo, and the residue was partitioned between ethyl acetate and saturated sodium bicarbonate solution. The organic phase was dried over magnesium sulfate and concentrated in vacuo. The residue was taken up in isopropanol, and the precipitate produced with petroleum ether was filtered off, washed with petroleum ether and dried in vacuo at 35° C. 120 mg of yellow crystals were obtained.

reactant | ethyl chloroformate | 7.5 mmol, 0.81 g | ClC(=O)OCC | C3H5ClO2
reactant | isoxazole-5-carboxylic acid | 7.5 mmol, 0.85 g | O1N=CC=C1C(=O)O | C4H3NO3
reactant | triethylamine | 37.5 mmol, 3.79 g | C(C)N(CC)CC | C6H15N
reactant | 2,3-diaminobenzamide | 7.5 mmol, 1.68 g | NC1=C(C(=O)N)C=CC=C1N | C7H9N3O
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 2-Isoxazol-5-ylbenzimidazole-4-carboxamide | 120 mg | O1N=CC=C1C=1NC2=C(N1)C=CC=C2C(=O)N | C11H8N4O2
